US04303655
A mixture of formic acid (10 m mol) and acetic anhydride (10 m mol) was stirred for 2 hours at 50° to 60° C. and then cooled to -7° to -5° C. To the mixture was added 2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetic acid hydrate, which can be represented as 2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-5-yl)acetic acid hydrate, (0.48 g.) at the same temperature, and the mixture was stirred for 3 hours at the same temperature. To the mixture was further added a mixture of formic acid (2.5 m mol) and acetic anhydride (2.5 m mol) at the same temperature and then the mixture was further stirred for 1 hour at the same temperature. After the reaction, the solvent was distilled off. To the residue were added water and methyl isobutyl ketone and then the insoluble material was filtered off. The filtrate was treated with an activated charcoal, and the methyl isobutyl ketone layer was separated. The remaining aqueous layer was further extracted with methyl isobutyl ketone. The methyl isobutyl ketone layers were combined together, dried over magnesium sulfate, treated with an activated charcoal, and then the solvent was distilled off. The residue was pulverized in diethyl ether to give powder of 2-formyloxy-2-(2-formylamino-1,3-thiazol-5-yl)acetic acid, which can be represented as 2-formyloxy-2-(2-formylimino-2,3-dihydro-1,3-thiazol-5-yl)acetic acid, (0.31 g.).

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetic acid hydrate | O.OC(C(=O)O)C1=CN=C(S1)N
reactant | 2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-5-yl)acetic acid hydrate | O.OC(C(=O)O)C1=CNC(S1)=N
reactant | formic acid | C(=O)O | CH2O2
product | 2-formyloxy-2-(2-formylamino-1,3-thiazol-5-yl)acetic acid | C(=O)OC(C(=O)O)C1=CN=C(S1)NC=O | C7H6N2O5S
